US05510375
2-(1-Oxo-5-phenoxypentyl)-4-(phenylmethyl)phenyl diethylcarbamate
The title compound was prepared from 4-(phenylmethyl)phenyl diethylcarbamate and N-methoxy-N-methyl-5-phenoxypentanamide following the same procedure used in Example F. NMR (CDCl3) δ1.18 (t, 3H), 1.26 (t, 3H), 1.83 (m, 4H), 2.92 (t, 2H), 3.35 (q, 2H), 3.45 (q, 2H) 3.99 (m, 4H), 6.86-7.31 (m, 12H), 7.49 (d, 1H).

reactant | 4-(phenylmethyl)phenyl diethylcarbamate | C(C)N(C(OC1=CC=C(C=C1)CC1=CC=CC=C1)=O)CC | C18H21NO2
reactant | N-methoxy-N-methyl-5-phenoxypentanamide | CON(C(CCCCOC1=CC=CC=C1)=O)C | C13H19NO3
product | 2-(1-Oxo-5-phenoxypentyl)-4-(phenylmethyl)phenyl diethylcarbamate | C(C)N(C(OC1=C(C=C(C=C1)CC1=CC=CC=C1)C(CCCCOC1=CC=CC=C1)=O)=O)CC | C29H33NO4
